US07230098B2
To a stirred solution of triphenyl phosphine (8.2 g, 0.03 mol) and DEAD (13.65 mL of a 40% solution in toluene) in THF (200 mL) at 0° C. was added a solution of 1-(2,6-dichloro-3-fluoro-phenyl)-ethanol (4.55 g, 0.021 mol) and 3-hydroxy-nitropyridine (3.35 g, 0.023 mol) in THF (200 mL). The resulting bright orange solution was stirred under a nitrogen atmosphere at ambient temperature for 4 hours at which point all starting materials had been consumed. The solvent was removed, and the crude material was dry loaded onto silica gel, and eluted with ethyl acetate-hexanes (20:80) to yield 3-(2,6-dichloro-3-fluoro-benzyloxy)-2-nitro-pyridine (6.21 g, 0.021 mol, 98%) as a pink solid. 1H NMR (CDCl3, 300 MHz) δ1.8–1.85 (d, 3H), 6.0–6.15 (q, 1H), 7.0–7.1 (t, 1H), 7.2–7.21 (d, 1H), 7.25–7.5 (m, 2H), 8.0–8.05 (d, 1H).

reactant | triphenyl phosphine | 0.03 mol, 8.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-(2,6-dichloro-3-fluoro-phenyl)-ethanol | 0.021 mol, 4.55 g | ClC1=C(C(=CC=C1F)Cl)C(C)O | C8H7Cl2FO
reactant | 3-hydroxy-nitropyridine | 0.023 mol, 3.35 g | OC=1C(=NC=CC1)[N+](=O)[O-] | C5H4N2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(2,6-dichloro-3-fluoro-benzyloxy)-2-nitro-pyridine | 0.021 mol, 6.21 g, 98% | ClC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C(=CC=C1F)Cl | C12H7Cl2FN2O3
